* C:\Users\garam\OneDrive\Documentos\Github Repo\symbspice\Symbolic-Spice\FMV Tone Stack.asc
R1 N001 N003 100k
C1 N002 N001 470p
Rt1 N002 out 125k
Rt2 out N004 125k
C2 N004 N003 22n
Rb N004 N005 500k
Rm N005 0 12.5k
C3 N005 N003 22n
Vin N001 0 AC 1
.ac dec 100 1 20k
.backanno
.end
